US07615550B2
E63a: 4-[4-(1-Naphthoyl)piperazin-1-yl]phenol
To a stirring mixture of 4-(1-piperazinyl)phenol (5.54 g) and triethylamine (10.83 ml) in dichloromethane (140 ml) was added dropwise, 1-naphthalenecarbonyl chloride (9.83 ml). The resulting reaction mixture was stirred under a nitrogen atmosphere for 3 h. The mixture was partitioned between dichloromethane and water and the organic phase was washed with saturated brine, dried (MgSO4) and evaporated to dryness. The residue was suspended in 6:4 tetrahydrofuran-methanol (370 ml) and treated with a saturated solution of potassium carbonate in methanol (45 ml). The mixture was stirred at room temperature under a nitrogen atmosphere for 20 h. The solvent was evaporated and the residue was partitioned between dichloromethane and water. The organic phase was washed with saturated brine, dried (MgSO4) and evaporated to give an oil (15.5 g), part of which (14.5 g) was purified by chromatography on a silica SPE bond elut cartridge eluting with 10% -80% ethyl acetate-cyclohexane gradient to give the title compound (8.9 g). LCMS RT=2.97 min.

reactant | 4-(1-piperazinyl)phenol | 5.54 g | N1(CCNCC1)C1=CC=C(C=C1)O | C10H14N2O
reactant | triethylamine | 10.83 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthalenecarbonyl chloride | 9.83 ml | C1(=CC=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | 4-[4-(1-Naphthoyl)piperazin-1-yl]phenol | 15.5 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C21H20N2O2
